US07220773B2
Preparation for 4-chloro-3-iodophenol
To a solution of 1-chloro-2-iodo-4-methoxybenzene (2.68 g, 10.0 mmol) in dichloromethane (20 ml) was dropped under ice cooling 0.91M boron tribromide in dichloromethane (13.0 ml, 12.0 mmol). The mixture was stirred for 1 hour under ice cooling and for a day at room temperature. To the reaction mixture was added an aqueous saturated sodium hydrogencarbonate solution. The mixture was acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with an aqueous saturated sodium chloride solution and dried over sodium sulfate. The solvent was removed to give the subject compound as pale brown crystals (2.61 g, quantitatively).

reactant | 1-chloro-2-iodo-4-methoxybenzene | 10.0 mmol, 2.68 g | ClC1=C(C=C(C=C1)OC)I | C7H6ClIO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 12.0 mmol, 13.0 ml | ClCCl | CH2Cl2
product | 4-chloro-3-iodophenol | ClC1=C(C=C(C=C1)O)I | C6H4ClIO
